US04014920
5.0 g (0.02 mol) of p-(2-ethoxycarbonylaminovinyl)-acetoxybenzene, after dissolving in 75 ml of absolute ethanol, addition of a solution of 1.36 g (0.02 mol) of sodium ethoxide in 10 ml of absolute ethanol, 15 minutes' heating to 50°C and subsequent evaporation to dryness in vacuo, yield the crude sodium salt of p-(2-ethoxycarbonylaminovinyl)-phenol. This is heated with 20 ml of epichlorohydrin to the boil for 24 hours under a reflux condenser and whilst stirring. Thereafter, the excess epichlorohydrin is removed by vacuum distillation. The residue is partitioned between water and methylene chloride and the organic phase is separated off, dried over sodium sulphate and evaporated. 1-[p-(2-Ethoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane of melting point 112-113°C (from ether) is obtained.

reactant | p-(2-ethoxycarbonylaminovinyl)-acetoxybenzene | 0.02 mol, 5.0 g | C(C)OC(=O)NC=CC1=CC=C(C=C1)OC(C)=O | C13H15NO4
reactant | sodium ethoxide | 0.02 mol, 1.36 g | [O-]CC.[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | p-(2-ethoxycarbonylaminovinyl)-phenol | C(C)OC(=O)NC=CC1=CC=C(C=C1)O | C11H13NO3
